US07842685B2
A mixture of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridine (151.5 mg, 0.339 mmol) and hydrochloric acid (5.0N, aq.) (3.0 mL, 15.00 mmol) in THF (6.7 mL) was stirred at 65° C. for 3 h. Ther reaction mixture was then cooled on an ice bath, and NaOH (5.0N, aq.; 3.0 mL) was added. THF was removed in vacuo, and the resulting mixture was partitioned between EtOAc (100 mL) and water (30 mL). The organic layer was separated, sequentially washed with water (30 mL) and brine (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-60% EtOAc/hexanes) furnished 4-(5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde as a light-yellow solid. MS (ESI) m/z: Calculated: 388.1; Observed: 389.0 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridine | 0.339 mmol, 151.5 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CC(C1)(F)F)F | C23H21F3N2O2S
reactant | hydrochloric acid | 15.00 mmol, 5.0N, 3.0 mL | Cl | ClH
reactant | NaOH | 5.0N, 3.0 mL | [OH-].[Na+]
solvent | THF | 6.7 mL | C1CCOC1 | C4H8O
product | 4-(5-(1-(3,3-difluoro-cyclobutyl)cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde | FC1(CC(C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F)F | C20H15F3N2OS
